US06668527B2
B. 2-Allyloxycarbonylamino-3-{3-[1-(3,5-dichloro-benzenesulfonyl)-pyrrolidin-2-yl]-isoxazol-5-yl}-propionic acid ethyl ester
2-Allyloxycarbonylamino-3-(3-pyrrolidin-2-yl-isoxazol-5-yl)-prop ionic acid ethyl ester hydrochloride(110 mg, 0.294 mmol) and sodium carbonate (93.5 mg, 0.882 mmol) were dissolved in water (1.5 mL) and 3,5-dichlorobenzenesulfonylchloride (86.7 mg, 0.353 mmol) was added. This mixture was stirred overnight. The reaction was extracted twice with dichloromethane. The combined organic portion was washed with brine, dried over magnesium sulfate and concentrated in vacuo to yield the title compound (59 mg, 37%). MS (CI) m/z 545.7 (M+1)

reactant | 2-Allyloxycarbonylamino-3-(3-pyrrolidin-2-yl-isoxazol-5-yl)-prop ionic acid ethyl ester hydrochloride | 0.294 mmol, 110 mg | Cl.C(C)OC(C(CC1=CC(=NO1)C1NCCC1)NC(=O)OCC=C)=O
reactant | sodium carbonate | 0.882 mmol, 93.5 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3,5-dichlorobenzenesulfonylchloride | 0.353 mmol, 86.7 mg | ClC=1C=C(C=C(C1)Cl)S(=O)(=O)Cl | C6H3Cl3O2S
solvent | water | 1.5 mL | O | H2O
product | 2-Allyloxycarbonylamino-3-{3-[1-(3,5-dichloro-benzenesulfonyl)-pyrrolidin-2-yl]-isoxazol-5-yl}-propionic acid ethyl ester | 59 mg, 37% | C(C)OC(C(CC1=CC(=NO1)C1N(CCC1)S(=O)(=O)C1=CC(=CC(=C1)Cl)Cl)NC(=O)OCC=C)=O | C22H25Cl2N3O7S
